USH0002007H1
A solution of 2.0 grams (0.006 mole) of N-[(4-chlorophenyl)(phenyl)-methyl]piperazine and 0.5 mL (0.007 mole) of propionaldehyde in 8.0 mL of dioxane and 8.0 mL of glacial acetic acid was stirred and cooled in an ice bath. To this a solution of 0.7 gram (0.006 mole) of indole in 10.0 mL of dioxane was added dropwise during a 15 minute period. Upon completion of the addition the reaction mixture was allowed to warm to ambient temperature, where it stirred for about 18 hours, after which the reaction mixture was poured into a mixture of diethyl ether and aqueous 5% sodium hydroxide. The ether layer was separated and washed with water and then with an aqueous saturated sodium chloride solution. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to an oil, which was subjected to column chromatography on silica gel. Elution was accomplished with pure hexane, followed by diethyl ether/hexane mixtures and then pure diethyl ether. The product-containing fractions were combined and concentrated under reduced pressure, yielding 0.3 gram of N-[1-(indol-3yl)propyl]-N′-[(4chlorophenyl)-(phenyl)methyl]piperazine. The NMR spectrum was consistent with the proposed structure.

reactant | N-[(4-chlorophenyl)(phenyl)-methyl]piperazine | 0.006 mole, 2.0 grams | ClC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H19ClN2
reactant | propionaldehyde | 0.007 mole, 0.5 mL | C(CC)=O | C3H6O
reactant | indole | 0.006 mole, 0.7 gram | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 8.0 mL | O1CCOCC1 | C4H8O2
solvent | acetic acid | 8.0 mL | C(C)(=O)O | C2H4O2
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[1-(indol-3yl)propyl]-N′-[(4chlorophenyl)-(phenyl)methyl]piperazine | 0.3 gram | N1C=C(C2=CC=CC=C12)C(CC)N1CCN(CC1)C(C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C28H30ClN3
